US04375475
Preparation of 6-{2-[2,4-Dichloro-6-(4-trifluoromethylphenylmethoxy)phenyl]ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one.
By following the procedure of Example 1, step A, but substituting equimolar amounts of 6-{2-(2,4-dichloro-6-hydroxyphenyl)ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one and 4-trifluoromethylbenzyl bromide for the 4,6-dichlorosalicylaldehyde and benzyl bromide used therein, the title compound is obtained, m.p. 104°-105° C.

reactant | 6-{2-(2,4-dichloro-6-hydroxyphenyl)ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC1=C(C(=CC(=C1)Cl)O)CCC1CC(CC(O1)=O)O | C13H14Cl2O4
reactant | 4-trifluoromethylbenzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 4,6-dichlorosalicylaldehyde | ClC=1C=C(C(C=O)=C(C1)Cl)O | C7H4Cl2O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 6-{2-[2,4-Dichloro-6-(4-trifluoromethylphenylmethoxy)phenyl]ethyl}-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=C(C=C1)C(F)(F)F)CCC1CC(CC(O1)=O)O | C21H19Cl2F3O4
